### ISSUE TITLE
Regression in v4.33.0-rc1: `simp` creates type-incorrect goals at `.implicit` transparency

### ISSUE THREAD

**Issue by TWal** [leanprover/lean4#14466]
### Prerequisites

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

When updating DyLean to v4.33.0-rc1, I noticed the following regression:
the tactic `simp` can transform a type-correct goal (at `.implicit` transparency) into a type-incorrect goal at `.implicit` transparency)

```lean4
def f {a: Type} {p: a → Prop} [DecidablePred p] (x: a) : Option (Subtype p) :=
  if h: p x then
    some ⟨x, h⟩
  else
    none

def g {a: Type} {p: a → Prop} (x: Subtype p) : a :=
  x.val

set_option linter.tacticCheckInstances true

/--
warning: produced tactic goal is not type-correct at `.implicit` transparency; consider using propositional rewriting or marking some of the following as `@[implicit_reducible]`:
  g
Full error:
  Application type mismatch: The argument
    inst✝ (g ⟨a, b⟩)
  has type
    Decidable (p (g ⟨a, b⟩))
  but is expected to have type
    Decidable (p a)
  in the application
    @dite (Option (Subtype p)) (p a) (inst✝ (g ⟨a, b⟩))

Note: This linter can be disabled with `set_option linter.tacticCheckInstances false`
-/
#guard_msgs in
public
example (a: Type) (p: a → Prop) [DecidablePred p]
  : ∀ x: Subtype p, f (g x) = some x
:= by
  simp [f, g]
  grind
```

### Context

Likely stemming from #13895: adding the option `set_option backward.isDefEq.respectTransparency.types false` fixes the issue.

### Steps to Reproduce

**Expected behavior:** `simp` closes the goal, and the linter does not trigger

**Actual behavior:** `simp` does not close the goal, and the linter does trigger after a call to `simp`

### Versions

- "4.33.0-rc1"
- "4.34.0, commit 323137b022369d56a044ae5af01d1efd55872361" (on live.lean-lang.org)

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by TWal** [comment]
Similarly to #14467, the linter also triggers with previous Lean versions, so in this sense it is not really a regression. However, this creates actual problems only in v4.33.0-rc1, because tactics might fail after the call to `simp` that creates a type-incorrect goal.

**Comment by nomeata** [comment]
A workaround is to use 
```
example (a: Type) (p: a → Prop) [DecidablePred p]
  : ∀ x: Subtype p, f (g x) = some x
:= by
  simp [f.eq_def, g.eq_def]
```
this way `simp` only unfolds `f` and `g` in places where it can do propositional rewriting.

**Comment by TWal** [comment]
Ah interesting!

I made some tests, all three tactics
- `unfold f g`
- `simp only [f.eq_def, g.eq_def]`
- `dsimp only [f, g]`

produce the expected goal

```lean4
a : Type
p : a → Prop
inst✝ : DecidablePred p
⊢ ∀ (x : Subtype p), (if h : p x.val then some ⟨x.val, h⟩ else none) = some x
```

However, `simp only [f, g]` produces the goal (with `set_option pp.proofs true`)

```lean4
a : Type
p : a → Prop
inst✝ : DecidablePred p
⊢ ∀ (x : Subtype p), (if h : p x.val then some ⟨x.val, id (Eq.refl x.val) ▸ h⟩ else none) = some x
```

I haven't investigated further, but it seems that inside the implicits there is something funky going on with respect to unfolding of `g`, which makes the goal type-incorrect at .implicit transparency...
